US06861529B2
Step 1: 6-Methyl-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
MeLi (1.4M in ether, 2 ml) is added dropwise to a stirred suspension of CuI (268 mg, 1.40 mmol) in Et2O at 0° C. The reaction mixture is kept at 0° C. for 15 min. 4-oxo-7,8-dihydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (300 mg, 0.94 mmol) in THF is added slowly to the solution at 0° C., the reaction mixture is allowed to warm up to room temperature over a period of 30 min and then quenched with saturated NH4Cl(aq., 30 ml). 50 ml Et2O is added and stirring is continued for 5 min. The layers are separated; the organic layer is washed with water (20 ml), dried (Na2SO4), and evaporated. Flash chromatography (30% EtOAc/hexanes) provides the title compound as white powder. 1H NMR (400 MHz, CDCl3) δ 1.02 (3H, d), 1.28 (3H, t), 1.56 (9H+1H, s+m), 1.92 (1H, m), 2.15 (1H, m), 2.48 (1H, q), 2.80 (1H, q), 3.15-3.25 (2H, m), 4.24 (2H, q), 7.57 (1H, s). MS (ES+) 336 (M+1) Step 2: 6-Methyl-4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylic acid ethyl ester

reactant | MeLi | 1.4M, 2 ml | [Li]C
reactant | 4-oxo-7,8-dihydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 0.94 mmol, 300 mg | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCC=CC2=O | C17H21NO5
solvent | Et2O | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
catalyst | CuI | 1.40 mmol, 268 mg | [Cu]I
product | 6-Methyl-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCC(CC2=O)C | C18H25NO5
